US08536175B2
Step 121.2: Dimethyl-[2-(3-nitro-pyrrol-1-yl)-ethyl]-amine
A mixture of 3-nitropyrrole (500 mg, 4.46 mmol), cesium carbonate (3.63 g, 11.2 mmol, 2.5 equiv), 1-chloro-2-dimethylaminoethane (835 mg, 5.8 mmol, 1.3 equiv) and DMF (5 mL) was stirred for 16 h at rt. The reaction mixture was quenched by addition of a saturated aqueous solution of NaHCO3 and extracted with DCM/MeOH (9:1, v/v). The organic phase was washed with a saturated aqueous solution of NaHCO3, dried (Na2SO4), filtered and concentrated. The residue was purified by silica gel column chromatography (DCM DCM/MeOH, 97:3) to afford 656 mg of the title compound as a yellow oil. Title compound: ESI-MS: 184.1 [M+H]+; TLC: Rf=0.38 (DCM/MeOH, 9:1).

reactant | 3-nitropyrrole | 4.46 mmol, 500 mg | [N+](=O)([O-])C1=CNC=C1 | C4H4N2O2
reactant | cesium carbonate | 11.2 mmol, 3.63 g, 2.5 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-chloro-2-dimethylaminoethane | 5.8 mmol, 835 mg, 1.3 equiv | ClCCN(C)C | C4H10ClN
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Dimethyl-[2-(3-nitro-pyrrol-1-yl)-ethyl]-amine | 656 mg | CN(CCN1C=C(C=C1)[N+](=O)[O-])C | C8H13N3O2
